US07910592B2
To a solution of methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-methyl-1H-indene-5-carboxylate (21.5 mg, 0.061 mmol) in EtOH (2 mL), was added a catalytic amount of 10% Pd/C. The flask was stirred at room temperature under H2 overnight. The mixture was filtered through Celite. The solvent was evaporated in vacuo to give methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-methylindane-5-carboxylate. LCMS calc.=379.2; found=378.9 (M+Na)+. 1H NMR (500 MHz, CDCl3): δ 7.72 (s, 1H); 7.18 (s, 1H); 7.11 (d, J=8.6 Hz, 1H); 6.62 (d, J=12.0 Hz, 1H); 3.73 (s, 3H); 3.69 (s, 3H); 3.29-3.23 (m, 2H); 3.02-2.90 (m, 2H); 2.45-2.34 (m, 1H); 1.73-1.66 (m, 1H); 1.38 (d, J=6.2 Hz, 3H); 1.30 (d, J=6.6 Hz, 6H).

reactant | methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-methyl-1H-indene-5-carboxylate | 0.061 mmol, 21.5 mg | FC1=CC(=C(C=C1C(C)C)C1=C(C=C2C(=CCC2=C1)C)C(=O)OC)OC | C22H23FO3
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-methylindane-5-carboxylate | FC1=CC(=C(C=C1C(C)C)C1=C(C=C2C(CCC2=C1)C)C(=O)OC)OC | C22H25FO3
